* F:\William\Documents\electric-vehicle-controller\spice\inverter_simulation.asc
XU2 Vm_u Vm_v Vm_w Vm+ Vm- NC_01 NC_02 InductionMotor R1=1 R2=1 M=0.1 Ll1=1m Ll2=1m Dm=10m Jm=10m Np=2
S1 N009 V_DC UP 0 SW
D1 N009 V_DC D
S2 0 N009 UN 0 SW
D2 0 N009 D
S3 N010 V_DC VP 0 SW
D3 N010 V_DC D
S4 0 N010 VN 0 SW
D4 0 N010 D
S5 N011 V_DC WP 0 SW
D5 N011 V_DC D
S6 0 N011 WN 0 SW
D6 0 N011 D
V1 V_DC 0 600
H1 w_motor 0 w_motor_i 1
XU19 estimated_stator_angle N007 Integral T=-1 Y0=0
V§w_motor_i Vm+ N012 0
V§i_u N009 Vm_u 0
V§i_v N010 Vm_v 0
V§i_w N011 Vm_w 0
H2 N001 0 i_u 1
H3 N003 0 i_v 1
H4 N006 0 i_w 1
V6 N007 0 377
V§THROTTLE N008 0 5
XU21 quadrature_current_reference N008 Proportional K=1
XU30 voltage_reference_direct voltage_reference_quadrature N015 N013 N014 xyRotation
XU31 N015 estimated_stator_angle Proportional K=-1
XU32 N013 N014 voltage_reference_u voltage_reference_v voltage_reference_w ab-uvwTransformation
XU33 N002 N001 1stOrderLag K=1 T=0.0005
XU34 N004 N003 1stOrderLag K=1 T=0.0005
XU35 N005 N006 1stOrderLag K=1 T=0.0005
R1 N012 Vm- .25
XX3 direct_current_reference current_feedback_d quadrature_current_reference current_feedback_q voltage_reference_direct voltage_reference_quadrature current_regulator
XX1 N002 N004 N005 estimated_stator_angle current_feedback_d current_feedback_q park_transformation
XX2 voltage_reference_u voltage_reference_v voltage_reference_w UP UN VP VN WP WN V_DC two_level_sine_modulator

* block symbol definitions
.subckt current_regulator current_ref_d current_fbk_d current_ref_q current_fbk_q voltage_ref_d voltage_ref_q
XX1 current_ref_d current_fbk_d voltage_ref_d pi params: Kp={Kp};Ki={Ki}
XX2 current_ref_q current_fbk_q voltage_ref_q pi params: Kp={Kp};Ki={Ki}
.param Kp=1
.param Ki=1
.ends current_regulator

.subckt park_transformation u v w theta d q
XU1 u v w N001 N002 NC_01 uvw-aboTransformation
XU2 N001 N002 theta d q xyRotation
.ends park_transformation

.subckt two_level_sine_modulator mod_ref_a mod_ref_b mod_ref_c ap an bp bn cp cn dc_voltage
XU1 P001 mod_ref_a mod_ref_b max
XU2 N011 P001 mod_ref_c max
XU3 P002 mod_ref_a mod_ref_b min
XU4 N013 P002 mod_ref_c min
XU5 N001 mod_ref_a N007 sub
XU6 N004 mod_ref_b N007 sub
XU7 N008 mod_ref_c N007 sub
XU8 N012 N011 N013 add
XU9 N007 N012 Proportional K=0.5
XU10 N002 N001 dc_voltage div
XU12 N005 N004 dc_voltage div
XU13 N009 N008 dc_voltage div
XU11 N003 N006 N010 ap an bp bn cp cn 3PhaseComplementaryPWM Vin1=0 Vin2=1 Tperiod={Tpwm} Tdead={Tdead} Tdelay=0 tripdt=1*Tdead
XU14 N003 N002 addk k=0.5
XU15 N006 N005 addk k=0.5
XU16 N010 N009 addk k=0.5
.param Tpwm=250u
.param Tdead=1u
.ends two_level_sine_modulator

.subckt pi SP PV OUT
XU1 N002 N001 Proportional K={Kp}
XU2 N003 N001 LimitedIntegral T={1/Ki} Y0=0 Ymin=-1T Ymax=1T
XU3 N001 SP PV sub
XU4 OUT N002 N003 add
.param Kp=1
.param Ki=1
.ends pi

.model D D
.lib F:\William\Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 1 startup
.model SW SW(Ron=1 Roff=1Meg Vt=0.5)
.model D D(Ron=.1 Roff=1Meg Vfwd=.4)
.lib LTspiceControlLibrary\CoordinateTransformations.lib
.lib LTspiceControlLibrary\Math.lib
.lib LTspiceControlLibrary\Motors.lib
.lib LTspiceControlLibrary\PulseModulations.lib
.lib LTspiceControlLibrary\TransferFunctions.lib
.backanno
.end
